US07829586B2
1) Tert-butyl 2,6-dichloro-5-fluoronicotinate
P-toluenesulfonyl chloride (53.5 g) was added to a pyridine (100 ml)/tert-butanol (300 ml) solution of 2,6-dichloro-5-fluoronicotinic acid (24.5 g), and stirred overnight at room temperature. The reaction liquid was poured into aqueous 10% sodium hydrogencarbonate solution, stirred at room temperature for 2 hours, and then extracted with ethyl acetate. The extract was washed with saturated saline water, dried with anhydrous magnesium sulfate, the solvent was evaporated off, the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to obtain the entitled compound (29.5 g).

reactant | P-toluenesulfonyl chloride | 53.5 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,6-dichloro-5-fluoronicotinic acid | 24.5 g | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tert-butanol | 300 ml | C(C)(C)(C)O | C4H10O
product | Tert-butyl 2,6-dichloro-5-fluoronicotinate | 29.5 g | ClC1=C(C(=O)OC(C)(C)C)C=C(C(=N1)Cl)F | C10H10Cl2FNO2
